US05424280
Preparation of Methyl [o-(5-hydroxy-2-nitrophenoxy)phenoxy]acetate
2.5N Hydrochloric acid (30 mL) is added to a solution of methyl {o-[5-(methoxymethoxy)-2-nitrophenoxy]phenoxy}acetate (3.35 g, 9.2 mmol) in methanol. The reaction mixture is refluxed for one hour, cooled to room temperature and concentrated in vacuo to give a residue. A solution of the residue in methylene chloride is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as a yellow liquid (1.9 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | Hydrochloric acid | 2.5N, 30 mL | Cl | ClH
reactant | methyl {o-[5-(methoxymethoxy)-2-nitrophenoxy]phenoxy}acetate | 9.2 mmol, 3.35 g | COCOC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-] | C17H17NO8
solvent | methanol | CO | CH4O
product | Methyl [o-(5-hydroxy-2-nitrophenoxy)phenoxy]acetate | 1.9 g | OC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-] | C15H13NO7
